US04829065
35 Grams (0.45 mol) of 2-chloropropane was added to 10.8 g (0.45 mol) of magnesium in 100 ml of diethyloxyde. Then, 55.8 g (0.3 mol) of 2-phenyl-4-formyl-5-methyl-1H-imidazole in 100 ml of THF were added. At the end of the addition, the mixture was refluxed for 30 minutes and then cooled and poured on ice water. The aqueous layer was extracted twice with 100 ml of diethyl ether. Evaporation of the solvent gave a residue which was recrystallized in ethanol to yield 40 grams of 2-phenyl-4-(1-hydroxy-2-methylpropyl)-5-methyl-1H-imidazole, which melted at 214° C.

reactant | 2-chloropropane | 0.45 mol | ClC(C)C | C3H7Cl
reactant | magnesium | 0.45 mol, 10.8 g | [Mg] | Mg
reactant | 2-phenyl-4-formyl-5-methyl-1H-imidazole | 0.3 mol, 55.8 g | C1(=CC=CC=C1)C=1NC(=C(N1)C=O)C | C11H10N2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-phenyl-4-(1-hydroxy-2-methylpropyl)-5-methyl-1H-imidazole | 40 grams | C1(=CC=CC=C1)C=1NC(=C(N1)C(C(C)C)O)C | C14H18N2O
